US07851493B2
To a mixture of 136 mg of 3-{4-[4-bromomethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-fluoro-phenyl}-4H-[1,2,4]oxadiazol-5-one in 17 mL of acetonitrile was added 48.6 mg of 4-trifluoropiperidine hydrochloride and 70 mg of potassium carbonate. The resulting mixture was stirred overnight and then concentrated under reduced pressure. It was then taken into dichloromethane and washed with water. The aqueous layer was extracted with dichloromethane. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (dichloromethane 98/methanol 2) to give 51.6 mg of 3-{2-fluoro-4-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one as a white solid.

reactant | 3-{4-[4-bromomethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-fluoro-phenyl}-4H-[1,2,4]oxadiazol-5-one | 136 mg | BrCC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)F)C1=CC=C(C=C1)C(F)(F)F | C20H12BrF4N3O3S
reactant | potassium carbonate | 70 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 17 mL | C(C)#N | C2H3N
product | 3-{2-fluoro-4-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one | 51.6 mg | FC1=C(C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CN1CCC(CC1)C(F)(F)F)C1=NOC(N1)=O | C26H21F7N4O3S
